US04839377
(i) N-[3-(Cyanomethyl)-1H-indol-5-yl]urea
A solution of sodium cyanate (1.2 g) in water (10 ml) was added to a stirred solution of 5-amino-1H-indole-3-aceto-nitrile (1.5 g) in glacial acetic acid (5 ml) and water (10 ml). Stirring was continued until a brown gum precipitated (10 min). The aqueous layer was then decanted off, and extracted with ethyl acetate (2×100 ml). The combined extracts were washed with sodium carbonate soln. (2N, 2×100 ml), dried (Na2SO4) and evaporated in vacuo to yield the crude urea as an off-white solid (0,3 g). The brown gum was purified by column chromatography (Kieselgel 60, 25 g) using ethyl acetate as eluant to yield more of the crude urea (0.1 g). The crude urea was then crystallised from isopropanol to yield the title compound as a fawn solid (0.3 g) m.p. 200°-204°.

reactant | sodium cyanate | 1.2 g | [O-]C#N.[Na+]
reactant | 5-amino-1H-indole-3-aceto-nitrile | 1.5 g | NC=1C=C2C(=CNC2=CC1)CC#N | C10H9N3
solvent | water | 10 ml | O | H2O
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | water | 10 ml | O | H2O
product | N-[3-(Cyanomethyl)-1H-indol-5-yl]urea | 0.3 g | C(#N)CC1=CNC2=CC=C(C=C12)NC(=O)N | C11H10N4O
